US05006570
Step IV - Preparation of Methyl 2-acetoxy-3-allyl-4-bromobenzoate-Intermediate (P)
254 g of methyl 2-hydroxy-3-allyl-4-bromobenzoate and 191 g of acetic anhydride were introduced into a 1-liter round-bottomed flask and 2 ml of sulphuric acid were then added.

reactant | methyl 2-hydroxy-3-allyl-4-bromobenzoate | 254 g | OC1=C(C(=O)OC)C=CC(=C1CC=C)Br | C11H11BrO3
reactant | acetic anhydride | 191 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
product | Methyl 2-acetoxy-3-allyl-4-bromobenzoate | C(C)(=O)OC1=C(C(=O)OC)C=CC(=C1CC=C)Br | C13H13BrO4
